US07074817B2
To a mixture of 40% aqueous dimethylamine (5.95 g, 52.8 mmol), 37% aqueous formaldehyde (4.21 g, 51.9 mmol) and acetic acid (7 mL) was added 5-bromo-1H-indole (9.79 g, 49.9 mmol). The reaction mixture was stirred for 21 hours at room temperature and poured into a 2.5 N sodium hydroxide/ice mixture (200 mL). This was extracted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated to dryness. It was dried at 60° C. for 30 minutes to yield (5-bromo-1H-indol-3-ylmethyl)-dimethyl-amine (11.2 g) as a brown solid: mp 160-162° C. 1HNMR (200 MHz, DMSO-d6): δ 11.1 (br s, 1H), 7.75 (s, 1H), 7.15-7.35 (m, 3H), and 3.5 ppm (s, 2H).

reactant | dimethylamine | 52.8 mmol, 5.95 g | CNC | C2H7N
reactant | formaldehyde | 51.9 mmol, 4.21 g | C=O | CH2O
reactant | 5-bromo-1H-indole | 49.9 mmol, 9.79 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | (5-bromo-1H-indol-3-ylmethyl)-dimethyl-amine | 11.2 g | BrC=1C=C2C(=CNC2=CC1)CN(C)C | C11H13BrN2
